US08471005B2
Into a 8-dram vial, Palladium Acetate (0.00772 g, 0.0344 mmol), Triphenylphosphine (0.0264 g, 0.100 mmol) and 1,4-Dioxane (1 mL) were added and stirred at room temperature for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.250 g, 0.646 mmol), 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-3-carbaldehyde (0.3009 g, 1.291 mmol), N,N-Dimethylformamide (1 mL) and 1.50 M of Sodium carbonate in Water (5 mL, 8 mmol) were added. The reaction mixture was heated at 90° C. overnight. The reaction was cooled to room temperature. Solvent was removed under vacuum to give a yellow solid. The resulting solid was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (5 to 25% methanol). The collected fractions afforded 5-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-pyridine-3-carbaldehyde as a yellow solid (65 mg, 24%).

reactant | Triphenylphosphine | 0.100 mmol, 0.0264 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.646 mmol, 0.250 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-3-carbaldehyde | 1.291 mmol, 0.3009 g | CC1(OB(OC1(C)C)C=1C=C(C=NC1)C=O)C | C12H16BNO3
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 8 mmol, 5 mL | O | H2O
catalyst | Palladium Acetate | 0.0344 mmol, 0.00772 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-Dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-pyridine-3-carbaldehyde | 65 mg, 24% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=C(C=NC2)C=O | C23H23N7O
